US04968835
2-Chloroaniline-4-sulphonic acid
Starting from 293.5 g of 2-chloroaniline, 460 ml of o-dichlorobenzene and 225.5 g of monohydrate, the reaction was performed as in Example 4. After 4.3 hours at 200° C., the mixture was cooled, filtered off with suction and dried. The isolated solid weighed 489.3 g and contained 51.1% of 2-chloroaniline-4-sulphonic acid, based on the use of 2-chloroaniline, with a selectivity of 100%.

reactant | 2-chloroaniline | 293.5 g | ClC1=C(N)C=CC=C1 | C6H6ClN
reactant | sulphuric acid | 225.5 g | S(O)(O)(=O)=O | H2O4S
solvent | o-dichlorobenzene | 460 ml | ClC1=C(C=CC=C1)Cl | C6H4Cl2
product | 2-Chloroaniline-4-sulphonic acid | ClC1=C(N)C=CC(=C1)S(=O)(=O)O | C6H6ClNO3S
